US07737166B2
A 1,4-dioxane (20 ml) solution of 7-bromo-2-tert-butyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-9) (414 mg, 1.12 mmol), 1-(N-tert-butoxycarbonylamino)-3-tri-n-butylstannyl-2-cyclopentene (530 mg, 1.12 mmol), bis(triphenylphosphine)palladium(II) chloride (39.3 mg, 56.1 μmol), 2,6-di-tert-butyl-p-cresol (28 mg, 127 μmol) was refluxed overnight. After cooling, the reaction liquid was concentrated under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1→8:1) to obtain tert-butyl [3-(2-tert-butyl-4-cyano-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)-2-cyclopentenyl]carbamate (322 mg, 61%) as a yellow white solid. A part of it (270 mg) was stirred in hydrochloric acid/1,4-dioxane solution, followed by purifying by silica gel column chromatography to obtain 7-(3-amino-cyclopent-1-enyl)-2-tert-butyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (157 mg). This was dissolved in methanol (4 ml), aqueous formalin solution (324 μl, 46-38%, 4.23 mmol), sodium cyanoborohydride (80 mg, 1.27 mmol) and acetic acid (87 μl, 1.52 mmol) were successively added, followed by stirring at room temperature for 2.5 hours. The reaction liquid was concentrated under reduced pressure, aqueous 10% sodium carbonate solution was added to the residue, the organic matter was extracted with chloroform. The organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate, the solvent was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=40:1) to obtain the entitled compound (84.8 mg, 50%) as a yellow solid.

reactant | 7-bromo-2-tert-butyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | BrC=1C(=C(C(=C2N=C(OC21)C(C)(C)C)C#N)C)C2=CC=CC=C2 | C19H17BrN2O
reactant | 1-(N-tert-butoxycarbonylamino)-3-tri-n-butylstannyl-2-cyclopentene | 1.12 mmol, 530 mg | C(C)(C)(C)OC(=O)NC1C=C(CC1)[Sn](CCCC)(CCCC)CCCC
reactant | 2,6-di-tert-butyl-p-cresol | 127 μmol, 28 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 56.1 μmol, 39.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | tert-butyl [3-(2-tert-butyl-4-cyano-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)-2-cyclopentenyl]carbamate | 322 mg, 61% | C(C)(C)(C)C=1OC2=C(N1)C(=C(C(=C2C2=CC(CC2)NC(OC(C)(C)C)=O)C2=CC=CC=C2)C)C#N | C29H33N3O3
